US08455479B2
To a solution of 8-fluoro-2-thioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (2.36 g, 7.97 mmol) in dry benzene (25 mL), was added formic acid hydrazide dissolved in 5 mL of dry DMSO (1.43 g, 23.91 mmol) at room temperature. The reaction mixture was heated at 80° C., using Dean-Stark apparatus for 18 h. After the completion of the reaction, as confirmed by TLC, distilled water (40 mL) was added and the crude compound was extracted with diethyl ether (3×40 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to afford the crude compound which, was purified by column chromatography [silica gel, 1.5:8.5 Acetone:Pet. ether] to afford 9-fluoro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester, (1.455 g, 60%) as a white solid.

reactant | 8-fluoro-2-thioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 7.97 mmol, 2.36 g | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC(=C2)F)=S | C14H17FN2O2S
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
reactant | DMSO | 23.91 mmol, 5 mL, 1.43 g | CS(=O)C | C2H6OS
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | 9-fluoro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 1.455 g, 60% | C(C)(C)(C)OC(=O)N1CC2=C(N3C=NN=C3C1)C=C(C=C2)F | C15H17FN4O2
